US05864039
4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide (1.10 g) was dissolved in dichloromethane (30 ml), and potassium carbonate (0.82 g) was added. Then, a solution of 2-naphthoyl chloride (0.33 ml) in methylene chloride was dropwise added under ice-cooling. The mixture was stirred at room temperature for 1 hr, and the insoluble matter was filtered off. The filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography to give 0.25 g of 4-amino-5-chloro-2-methoxy-N-(1-(4-(2-naphthoylamino)butyl)piperidin-4-ylmethyl)benzamide.

reactant | 4-Amino-N-(1-(4-aminobutyl)piperidin-4-ylmethyl)-5-chloro-2-methoxybenzamide | 1.10 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN)C=C1Cl)OC | C18H29ClN4O2
reactant | potassium carbonate | 0.82 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-naphthoyl chloride | 0.33 ml | C1=C(C=CC2=CC=CC=C12)C(=O)Cl | C11H7ClO
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-amino-5-chloro-2-methoxy-N-(1-(4-(2-naphthoylamino)butyl)piperidin-4-ylmethyl)benzamide | 0.25 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCNC(=O)C2=CC3=CC=CC=C3C=C2)C=C1Cl)OC | C29H35ClN4O3
